US06759101B2
2. Cis-5-(5,5,6,6,7,7,8,8,8-Nonafluoro-octyloxy)-2-(4-oct-5-enyloxy-phenyl)-pyrimidine
A solution of DEAD (0.261 g, 1.50 mmol) in THF (20 ml) was added dropwise to a stirred solution of 4-[5-(5,5,6,6,7,7,8,8,8-nonafluorooctyloxy)-pyrimidin-2-yl]-phenol (0.858 g, 1.50 mmol), cis-5-octene-1-ol (0.192 g, 1.50 mmol) and triphenylphosphine (0.939 g, 1.50 mmol) in THF (30 ml) and the reaction mixture stirred at room temperature for 24 h. The solvent was removed in vacuo and the residues purified by column chromatography [silica gel, eluted with hexane/ethyl acetate (4:1)] to yield a colorless solid, which was recrystallized from ethanol.

reactant | DEAD | 1.50 mmol, 0.261 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-[5-(5,5,6,6,7,7,8,8,8-nonafluorooctyloxy)-pyrimidin-2-yl]-phenol | 1.50 mmol, 0.858 g | FC(CCCCOC=1C=NC(=NC1)C1=CC=C(C=C1)O)(C(C(C(F)(F)F)(F)F)(F)F)F | C18H15F9N2O2
reactant | cis-5-octene-1-ol | 1.50 mmol, 0.192 g | C(CCC\C=C/CC)O | C8H16O
reactant | triphenylphosphine | 1.50 mmol, 0.939 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Cis-5-(5,5,6,6,7,7,8,8,8-Nonafluoro-octyloxy)-2-(4-oct-5-enyloxy-phenyl)-pyrimidine | FC(CCCCOC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCC\C=C/CC)(C(C(C(F)(F)F)(F)F)(F)F)F | C26H29F9N2O2
